US07323567B2
a) 7-Amino-6-bromo-4,4-dimethyl-8-nitroisoquinoline-1,3(2H,4H)-dione
Bromine (9.27 mL, 188.6 mmol) was added dropwise to a solution of 7-amino-4,4-dimethyl-8-nitroisoquinoline-1,3(2H,4H)-dione (4.70 g, 18.86 mmol) in AcOH (190 mL). The reaction mixture was stirred at 25° C. for 2 h then was concentrated under reduced pressure. The residue was diluted with EtOAc, and successively washed with water, aqueous saturated NaHCO3, aqueous saturated Na2S2O3, and brine, dried (MgSO4), filtered and concentrated under reduced pressure to give the title compound (6.10 g, 99% yield).

reactant | Bromine | 188.6 mmol, 9.27 mL | BrBr | Br2
reactant | 7-amino-4,4-dimethyl-8-nitroisoquinoline-1,3(2H,4H)-dione | 18.86 mmol, 4.70 g | NC1=CC=C2C(C(NC(C2=C1[N+](=O)[O-])=O)=O)(C)C | C11H11N3O4
solvent | AcOH | 190 mL | CC(=O)O | C2H4O2
product | 7-Amino-6-bromo-4,4-dimethyl-8-nitroisoquinoline-1,3(2H,4H)-dione | 6.10 g, 99% yield | NC1=C(C=C2C(C(NC(C2=C1[N+](=O)[O-])=O)=O)(C)C)Br | C11H10BrN3O4
